US07795315B2
(E)-[2-(3-{4-[Hydroxy-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester
A mixture of 2-(4-Bromo-phenyl)-2-hydroxy-N-(4-trifluoromethyl-phenyl)-acetamide (8.0 g, 21.4 mmol), (2-acryloylamino-phenyl)-carbamic acid tert-butyl ester (6.2 g, 23.6 mmol), tri-o-tolyl-phosphine (1.0 g, 3.3 mmol), triethylamine (12 mL, 86 mmol), and Pd2(dba)3 (1.5 g, 1.6 mmol) in DMF (160 mL) was heated at 90 degrees Celcius overnight under nitrogen atmosphere. The mixture was poured into saturated ammonium chloride solution (300 mL) and extracted with ethyl acetate three times. The organic layer was washed with brine, dried over sodium sulfate, filtered, concentrated, and purified by flash column chromatography (ethyl acetate/petroleum ether 1:2) to obtain a white solid (5.8 g, 49%).

reactant | 2-(4-Bromo-phenyl)-2-hydroxy-N-(4-trifluoromethyl-phenyl)-acetamide | 21.4 mmol, 8.0 g | BrC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)C(F)(F)F)O | C15H11BrF3NO2
reactant | (2-acryloylamino-phenyl)-carbamic acid tert-butyl ester | 23.6 mmol, 6.2 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(C=C)=O)=O | C14H18N2O3
reactant | tri-o-tolyl-phosphine | 3.3 mmol, 1.0 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 86 mmol, 12 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 1.6 mmol, 1.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-[2-(3-{4-[Hydroxy-(4-trifluoromethyl-phenylcarbamoyl)-methyl]-phenyl}-acryloylamino)-phenyl]-carbamic acid tert-butyl ester | 5.8 g, 49% | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CC=C(C=C1)C(C(NC1=CC=C(C=C1)C(F)(F)F)=O)O)=O)=O | C29H28F3N3O5
